US03941782
B. γ-Thiomorpholinobutyric acid hydrochloride
A solution of 28.0 g. (0.138 mole) of methyl γ-thiomorpholinobutyrate in 300 ml. of concentrated hydrochloric acid and 250 ml. of water was stirred and heated at reflux for 18 hours. The solvents were removed on a rotary evaporator to give a colorless residue which crystallized upon trituration with acetone. The solid was filtered, washed with acetone, and dried in vacuo to give 28.2 g. (91%) of the desired product as colorless crystals, m.p. 242°-245°C.

reactant | methyl γ-thiomorpholinobutyrate | 0.138 mole | S1CCN(CC1)CCCC(=O)OC | C9H17NO2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | γ-Thiomorpholinobutyric acid hydrochloride | 91% | Cl.S1CCN(CC1)CCCC(=O)O | InChI=1S/C8H15NO2S.ClH/c10-8(11)2-1-3-9-4-6-12-7-5-9;/h1-7H2,(H,10,11);1H
